US07393836B2
1-chloro-4-(β-D-glucopyranos-1-yl)-2-[4-(trifluoromethylsulphonyloxy)-benzyl]-benzene
10 mg 4-dimethylaminopyridine are added to a solution of 0.38 g 1-chloro-4-(β-D-glucopyranos-1-yl)-2-(4-hydroxybenzyl)-benzene, 0.21 ml triethylamine and 0.39 g N,N-bis-(trifluoromethanesulphonyl)-aniline in 10 ml dry dichloromethane. The solution is stirred for 4 h at ambient temperature and then combined with aqueous sodium chloride solution. It is extracted with ethyl acetate, the organic extracts are dried over sodium sulphate, and the solvent is removed. The residue is chromatographed on silica gel (dichloromethane/methanol 1:0->4:1).

reactant | 1-chloro-4-(β-D-glucopyranos-1-yl)-2-(4-hydroxybenzyl)-benzene | 0.38 g | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)O | C19H21ClO7
reactant | triethylamine | 0.21 ml | C(C)N(CC)CC | C6H15N
reactant | N,N-bis-(trifluoromethanesulphonyl)-aniline | 0.39 g | FC(S(=O)(=O)N(C1=CC=CC=C1)S(=O)(=O)C(F)(F)F)(F)F | C8H5F6NO4S2
reactant | sodium chloride | [Cl-].[Na+]
catalyst | 4-dimethylaminopyridine | 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-chloro-4-(β-D-glucopyranos-1-yl)-2-[4-(trifluoromethylsulphonyloxy)-benzyl]-benzene | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C20H20ClF3O9S
